### PR TITLE
Lemmas about list cutting & map

### PR DESCRIPTION
**Pull request by rudynicolop**
**Kind:** feature / standard library

Summary: List lemmas proving `firstn` & `skipn` commute with `map`.

### CODE REVIEW

File: theories/Lists/List.v [hunk 1]
```diff
@@ -2323,9 +2323,25 @@ Section Cutting.
...
      intro H0; rewrite H0 in H; inversion_clear H as [|? H1]; inversion_clear H1.
    Qed.
-
 End Cutting.
 
+Section CuttingMap.
+  Variables A B : Type.
+  Variable f : A -> B.
+
+  Lemma firstn_map_comm : forall n l,
```
Comment (ppedrot) [inline theories/Lists/List.v:2332]: I don't think that the `_comm` suffix should be used for this kind of statements. It's more commonly used for actual commutativity of binary operations, not naturality.

Comment (rudynicolop) [reply theories/Lists/List.v:2332]: Okay. I could drop the `_comm` suffix entirely and do `firstn_map` & `skipn_map`.

**Comment by Zimmi48** [comment]
@rudynicolop It seems that you have messed up your rebase: many commits are showing besides your own.

**Comment by SkySkimmer** [comment]
I guess when you pushed after the rebase git told you to pull first. After a rebase you should not pull, instead you have to use `git push -f`.
Fix this by dong `git reset --hard 4258273512 && git push -f`.

**Comment by rudynicolop** [comment]
> I guess when you pushed after the rebase git told you to pull first. After a rebase you should not pull, instead you have to use `git push -f`.
> Fix this by doing `git reset --hard 4258273512 && git push -f`.

Thanks! Sorry about the complications, I knew something was amiss when 20 more reviewers were added :).

File: theories/Lists/List.v [hunk 2]
```diff
@@ -2181,6 +2181,23 @@ Section Cutting.
 
 End Cutting.
 
+Section CuttingMap.
```
Comment (olaure01) [inline theories/Lists/List.v:2184]: Maybe this section could be fused with the `Cutting` one.

File: theories/Lists/List.v [hunk 3]
```diff
@@ -2181,6 +2181,23 @@ Section Cutting.
...
+  Variables A B : Type.
+  Variable f : A -> B.
+
+  Lemma firstn_map : forall n l,
+      firstn n (map f l) = map f (firstn n l).
```
Comment (olaure01) [inline theories/Lists/List.v:2189]: In order to be compatible with name mangling, the following shape might be simpler:
```suggestion
  Lemma firstn_map n l : firstn n (map f l) = map f (firstn n l).
```

File: theories/Lists/List.v [hunk 4]
```diff
@@ -2181,6 +2181,23 @@ Section Cutting.
...
+  Proof.
+    induction n; intros []; simpl; f_equal; auto 1.
```
Comment (olaure01) [inline theories/Lists/List.v:2191]:
```suggestion
    revert l; induction n; intros []; simpl; f_equal; trivial.
```

File: theories/Lists/List.v [hunk 5]
```diff
@@ -2181,6 +2181,23 @@ Section Cutting.
...
+  Qed.
+
+  Lemma skipn_map : forall n l,
+      skipn n (map f l) = map f (skipn n l).
```
Comment (olaure01) [inline theories/Lists/List.v:2195]: Name mangling again:
```suggestion
  Lemma skipn_map n l : skipn n (map f l) = map f (skipn n l).
```

File: theories/Lists/List.v [hunk 6]
```diff
@@ -2181,6 +2181,23 @@ Section Cutting.
...
+  Proof.
+    induction n; intros []; simpl; auto 1.
```
Comment (olaure01) [inline theories/Lists/List.v:2197]:
```suggestion
    revert l; induction n; intros []; simpl; trivial.
```

**Review by olaure01 — COMMENTED** [review]
Do not forget to [add a `changelog` file](https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog).

File: theories/Lists/List.v (hunk 3 above)
Comment (MSoegtropIMC) [reply theories/Lists/List.v:2189]: @olaure01 : can you elaborate on this a bit? I always assumed that these two forms are equivalent.

Comment (olaure01) [reply theories/Lists/List.v:2189]: Sorry I did not made my point clear. The current version is not compatible with name mangling. If we want to correct it, there are two main possibilities I think:
```coq
  Lemma firstn_map : forall n l,
      firstn n (map f l) = map f (firstn n l).
  Proof.
    intro n; induction n; intros []; simpl; f_equal; auto 1.
  Qed.
```
and
```coq
  Lemma firstn_map n l : firstn n (map f l) = map f (firstn n l).
  Proof.
    revert l; induction n; intros []; simpl; f_equal; auto 1.
  Qed.
```
which I think are indeed equivalent.
So two points:
* one of the two should be used for compatibility with name mangling
* I usualy find the second one more compact (in particular in cases where there is no need to revert a parameter), thus the suggestion.

Comment (MSoegtropIMC) [reply theories/Lists/List.v:2189]: It was not clear to me what you mean with "name mangling" - but looking into the ref man I found (https://coq.github.io/doc/master/refman/proof-engine/tactics.html#coq:flag.Mangle-Names). I have heard of this feature more as "name randomization". Thanks for pointing it out!

Comment (olaure01) [reply theories/Lists/List.v:2189]: A global view on this line of work in stdlib: #6781

File: theories/Lists/List.v (hunk 2 above)
Comment (rudynicolop) [reply theories/Lists/List.v:2184]: I wasn't certain of how to do this b/c the type parameters for `firstn` & `skipn` in `Cutting` seem bound to `A`, and I need them to work lists of an arbitrary `A` & `B` to define the lemmas.

Comment (olaure01) [reply theories/Lists/List.v:2184]: OK you are right, let's leave it this way.

File: doc/changelog/10-standard-library/14406-master.rst [hunk 7]
```diff
@@ -0,0 +1,4 @@
+- **Added:**
+  Lemmas showing firstn & skipn commute with map.
```
Comment (olaure01) [inline doc/changelog/10-standard-library/14406-master.rst:2]:
```suggestion
  Lemmas showing :g:`firstn` and :g:`skipn` commute with :g:`map`.
```

File: doc/changelog/10-standard-library/14406-master.rst [hunk 8]
```diff
@@ -0,0 +1,4 @@
...
+  (`#14406 <https://github.com/coq/coq/pull/14406>`_,
+  by rnp39).
```
Comment (olaure01) [inline doc/changelog/10-standard-library/14406-master.rst:4]: It is recommended to use full names.

**Review by olaure01 — APPROVED** [review]

**Comment by olaure01** [comment]
@rudynicolop once you are done with the final corrections, please smash the commits, and we should be ready for merging

**Comment by olaure01** [comment]
@rudynicolop do not forget to have a look at the comments on the changelog file

**Comment by rudynicolop** [comment]
> @rudynicolop do not forget to have a look at the comments on the changelog file

My bad, should be good to go now.

File: doc/changelog/10-standard-library/14406-master.rst (hunk 7 above)
Comment (olaure01) [reply doc/changelog/10-standard-library/14406-master.rst:2]: @rudynicolop This formatting comment remains.

**Comment by olaure01** [comment]
If there is not more comments, I will merge on Monday.

**Comment by olaure01** [comment]
@coqbot: merge now
